US04014855
Preparation of 3-[2,4,6-tribromophenoxymethyl]-3-[pentabromophenoxymethyl]oxetane
To 31.5 g. (0.07 moles) of 3-[2,4,6-tribromophenoxymethyl]-3-[chloromethyl]oxetane was added pentabromophenol (36 g., 0.074 moles), potassium carbonate (10 g., 0.077 moles), potassium iodide (0.5 g.) and dimethyl formamide (75 ml.). The reactants were stirred in a nitrogen atmosphere and heated to 140°-148° C. for 21/2 hours. The cooled reaction mixture was diluted with 500 ml. of water. The resulting solid 3-[2,4,6-tribromophenoxymethyl]-3-[pentabromophenoxymethyl]oxetane was collected by filtration and washed on the funnel with water and with ethanol. The yield was 48 g. (76%). A small sample recrystallized from dioxane (6 ml./g.) melted at 202°-204° C.

reactant | 3-[2,4,6-tribromophenoxymethyl]-3-[chloromethyl]oxetane | 0.07 moles | BrC1=C(OCC2(COC2)CCl)C(=CC(=C1)Br)Br | C11H10Br3ClO2
reactant | pentabromophenol | 0.074 moles, 36 g | BrC1=C(C(=C(C(=C1O)Br)Br)Br)Br | C6HBr5O
reactant | potassium carbonate | 0.077 moles, 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethyl formamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-[2,4,6-tribromophenoxymethyl]-3-[pentabromophenoxymethyl]oxetane | BrC1=C(OCC2(COC2)COC2=C(C(=C(C(=C2Br)Br)Br)Br)Br)C(=CC(=C1)Br)Br | C17H10Br8O3
